US04937374
A mixture of methyl ortho-bromophenylacetate (5.23 g) and methyl formate (27.46 g) in DMF(6 ml) was added dropwise to a stirred suspension of sodium hydride (1.10 g) in DMF (45 ml) at 0° to 5° C. (frothing). When thin-layer chromatography showed that reaction was complete, the mixture was poured into water, acidified and extracted with ether. The extracts were dried and concentrated to give crude methyl 2-(2-bromophenyl)-3-hydroxypropenoate (5.95 g) as a yellow liquid which was used directly in the next step. The crude methyl 2-(2-bromophenyl)-3-hydroxypropenoate (5.95 g) was stirred with anhydrous potassium carbonate (6.38 g) and dimethyl sulphate (2.75 g) in DMF (40 ml). After 3 hours at room temperature, the reaction mixture was poured into water and extracted with ether (2×75 ml). The combined ether layers were washed with water and brine (×1) and dried. Filtration and evaporation gave a yellow oil which crystallised on standing to give (E)-methyl 2-(2-bromophenyl)-3-methoxypropenoate (5.20 g, 88% yield from methyl ortho-bromophenylacetate) as a crystalline solid, m.p. 68°-69° C., IR maxima 1712, 1638 cm-1 ; 1H n.m.r delta 3.73 (3H, s); 3.86 (3H, s); 7.56 (1H, s) p.p.m.

reactant | methyl ortho-bromophenylacetate | 5.23 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
reactant | methyl formate | 27.46 g | C(=O)OC | C2H4O2
reactant | sodium hydride | 1.10 g | [H-].[Na+]
reactant | methyl 2-(2-bromophenyl)-3-hydroxypropenoate | 5.95 g | BrC1=C(C=CC=C1)C(C(=O)OC)=CO | C10H9BrO3
reactant | potassium carbonate | 6.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulphate | 2.75 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (E)-methyl 2-(2-bromophenyl)-3-methoxypropenoate | 5.20 g, 88% yield | BrC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C11H11BrO3
